US08664401B2
To a solution of 2-fluoro-4-iodo-3-methylpyridine (1.68 g, 7.09 mmol) in 1,4-dioxane/water (1:1, 5.2 mL) was added concentrated HCl (5.5 mL). The resulting clear solution was heated to 100° C. After 1 h, the reaction mixture was allowed to cool to ambient temperature and was stirred overnight, during which time a precipate formed. The mixture was filtered and dried to a constant weight to afford 4-iodo-3-methylpyridin-2(1H)-one as a yellow solid 1.47 g.

reactant | 2-fluoro-4-iodo-3-methylpyridine | 7.09 mmol, 1.68 g | FC1=NC=CC(=C1C)I | C6H5FIN
reactant | HCl | 5.5 mL | Cl | ClH
reactant | 1,4-dioxane water | 5.2 mL | O1CCOCC1.O
product | 4-iodo-3-methylpyridin-2(1H)-one | 1.47 g | IC1=C(C(NC=C1)=O)C | C6H6INO
